US05882628
N,N'-Bis(2,3-dihydroxypropionyl)-N-(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate (204 mg, 0.25 mmol) was dissolved in a mixture of dimethylacetamide (4 ml) and DMSO (2.5 ml) containing Cs2CO3 (650 mg, 2.0 mmol) and 2-bromoethyl acetate (0.035 ml, 0.31 mmol). After stirring for 1 week, ether (150 ml) and a NaH2PO4 buffer (100 ml) were added, the organic phase was separated and the aqueous phase was extracted with ether (150 ml). The combined organic phases were then washed with water (6×100 ml), dried (Na2SO4) and evaporated. The residue was dissolved in a mixture of methanol (20 ml) and water (20 ml) and pH was adjusted to 12 with aqueous NaOH. After stirring for 1 h, the pH was adjusted to 1.5 with concentrated HCl and stirred for another 16 h. The solution was neutralized with aqueous NaH2PO4 and the solvents were evaporated. Preparative HPLC gave 55 mg (30%) of the pure product.

reactant | N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.25 mmol, 204 mg | CC1(OCC(O1)C(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(=O)C1OC(OC1)(C)C)I)I)C
reactant | Cs2CO3 | 2.0 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoethyl acetate | 0.31 mmol, 0.035 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
product | N,N'-Bis(2,3-dihydroxypropionyl)-N-(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | 55 mg, 30% | OC(C(=O)N(C=1C(=C(CO)C(=C(C1I)NC(C(CO)O)=O)I)I)CCO)CO | C15H19I3N2O8
